US06313310B1
3-Hydroxy-3-(1-methyl-pyrrol-2-yl)-1-propyne was prepared according to Method A above using 1-methyl-2-pyrrolecarboxaldehyde (0.450 g, 4 mmol) (Aldrich) in THF (20 mL) and ethynylmagnesium chloride (5 mmol, 10 mL, 0.5M solution in tetrahydrofuran) (Aldrich). (Yield 422 mg, 76%).

reactant | 1-methyl-2-pyrrolecarboxaldehyde | 4 mmol, 0.450 g | CN1C(=CC=C1)C=O | C6H7NO
reactant | ethynylmagnesium chloride | 5 mmol, 0.5M, 10 mL | C(#C)[Mg]Cl
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-Hydroxy-3-(1-methyl-pyrrol-2-yl)-1-propyne | OC(C#C)C=1N(C=CC1)C | C8H9NO
